US06136810
α-(3-Chlorobenzoyl)acetamide (19.76 g, 0.1 mol) was dissolved in 250 ml of ethanol, and the solution was mixed with 19.15 g (0.11 mol) of 1,1-diethoxy-3-pentanone and heated under reflux for 40 hours. After cooling to room temperature, the reaction solution was poured into ice water and extracted with chloroform. The organic layer was washed with 1 N hydrochloric acid, brine and dried over anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and then the resulting filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was mixed with diethyl ether and the thus formed crystals were collected by filtration and washed with diethyl ether to give 18.50 g of 3-(3-chlorobenzoyl)-6-ethyl-2-pyridone in the form of crystals. The yield was 71%.

reactant | α-(3-Chlorobenzoyl)acetamide | 0.1 mol, 19.76 g | ClC=1C=C(C(=O)CC(=O)N)C=CC1 | C9H8ClNO2
reactant | 1,1-diethoxy-3-pentanone | 0.11 mol, 19.15 g | C(C)OC(CC(CC)=O)OCC | C9H18O3
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-(3-chlorobenzoyl)-6-ethyl-2-pyridone | 18.50 g, yield was 71% | ClC=1C=C(C(=O)C=2C(NC(=CC2)CC)=O)C=CC1 | C14H12ClNO2
